US06489314B1
(e) (4S)-4-(triethylsilyloxy)-5-methyl-6-(2-(2,2,2-trichloroethoxycarbonyloxymethyl)-thiazol-4-yl)-1,5-hexadiene
Triethylsilyl trifluromethanesulfonate (15 mL) is added dropwise to a −78° C. solution of (4S)-4-hydroxy-5-methyl-6-(2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazol-4-yl)-1,5-hexadiene (7.65 g) and 2,6-lutidine (10 mL) in 50 mL of CH2Cl2. After the addition, the reaction mixture is allowed to warm to ambient temperature and is stirred for 5 hours. The reaction mixture is poured into 2 N HCl and extracted with ether. The combined organic layers were washed with 10% aq NaHCO3 and brine, dried (Na2SO4), filtered, and concentrated. Flash chromatography on SiO2 (hexanes/ethyl acetate, 20:1) provides the product as a colorless oil.

reactant | Triethylsilyl trifluromethanesulfonate | 15 mL | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
reactant | (4S)-4-hydroxy-5-methyl-6-(2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazol-4-yl)-1,5-hexadiene | 7.65 g | O[C@@H](CC=C)C(=CC=1N=C(SC1)COC(=O)OCC(Cl)(Cl)Cl)C | C14H16Cl3NO4S
reactant | 2,6-lutidine | 10 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | HCl | 2 N | Cl | ClH
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (4S)-4-(triethylsilyloxy)-5-methyl-6-(2-(2,2,2-trichloroethoxycarbonyloxymethyl)-thiazol-4-yl)-1,5-hexadiene | C(C)[Si](O[C@@H](CC=C)C(=CC=1N=C(SC1)COC(=O)OCC(Cl)(Cl)Cl)C)(CC)CC | C20H30Cl3NO4SSi
